US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]benzene-1,3-diamine
A mixture of 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (150 mg, 0.40 mmol, prepared in analogy to the one in Example 2-1), benzene-1,3-diamine (86 mg, 0.80 mmol), palladium acetate (18 mg, 0.04 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (50 mg, 0.04 mmol), potassium phosphate (169.6 mg, 0.8 mmol) and 1,4-dioxane (3 mL) in a 2-5 mL of process vial was heated at 140° C. under microwave irradiation for 1.5 hours. After being cooled to room temperature, the mixture was filtered and washed with ethyl acetate. The filtrate was washed with brine, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by preparative HPLC to afford the pure product as a solid. MS obsd. (ESI+) [(M+H)+] 445, 1H NMR (400 MHz, DMSO-d6) δ ppm 8.31 (s, 1 H), 7.88 (dd, J=6.06, 1.52 Hz, 2 H), 7.63 (td, J=7.52, 1.14 Hz, 1 H), 7.54-7.46 (m, 1 H), 7.42-7.33 (m, 2 H), 7.33-7.27 (m, 1 H), 7.16 (t, J=7.83 Hz, 1 H), 6.52 (t, J=1.89 Hz, 1 H), 6.49-6.34 (m, 3 H), 5.23 (s, 2 H), 4.86 (s, 2 H), 3.60 (brs, 2 H), 2.38 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | benzene-1,3-diamine | 0.80 mmol, 86 mg | C1(=CC(=CC=C1)N)N | C6H8N2
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 0.04 mmol, 50 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | potassium phosphate | 0.8 mmol, 169.6 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium acetate | 0.04 mmol, 18 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]benzene-1,3-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC2=CC(=CC=C2)N)C)=O | C25H24N4O2S
